data/mechanisms/records/IMS8-EQ8.106a.json
{"mechanism_id": "IMS8-EQ8.106a", "species": [{"species_id": "ethoxy_methoxypropane_molecular_ion", "mapped_smiles": "[CH3:1][CH2:2][O:3][CH2:4][CH2:5][CH2:6][O+:7][CH3:8]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "dimethyl_ether_radical_cation", "mapped_smiles": "[CH3:1][O+:7][CH3:8]", "role": "product_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "tetrahydrofuran_neutral", "mapped_smiles": "[CH2:2]1[O:3][CH2:4][CH2:5][CH2:6]1", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["ethoxy_methoxypropane_molecular_ion"]}, {"state_id": "state_products", "species_ids": ["dimethyl_ether_radical_cation", "tetrahydrofuran_neutral"]}], "steps": [{"step_id": "step_re_elimination_charge_on_AD", "from_state": "state_precursor", "to_state": "state_products", "step_class": "elimination", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [1, 2]}, "target": {"type": "bond", "atom_maps": [1, 7]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [6, 7]}, "target": {"type": "bond", "atom_maps": [1, 7]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 2]}, "target": {"type": "bond", "atom_maps": [2, 6]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [6, 7]}, "target": {"type": "bond", "atom_maps": [2, 6]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "ev_step_8_106a", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_re_elimination_charge_on_AD", "support_type": "textbook_proposed", "locator": {"page": 213, "equation": "8.106", "figure": null, "panel": "left-hand product set (the branch before 'or')", "section": "8.11 Other rearrangements, sub-heading 'Elimination:'"}, "confidence": 0.7, "curator_note": "Equation 8.106 is the only scheme under the sub-heading 'Elimination:'. It is drawn with four labelled atoms: A sits above B and is bonded to it, D sits above C and is bonded to it, B and C are joined by the U-arc that stands for the rest of the ion, and '+(.)' is printed above D (the parentheses around the dot are McLafferty's way of saying the ion may be even- or odd-electron). The arrow is labelled 're' and TWO product sets are printed, separated by the word 'or': (branch 1) 'A-D' with '+(.)' above D, plus 'B-C' drawn with a new straight bond and the U-arc still joining them; (branch 2) the same two fragments with '+(.)' moved onto C of the B-C fragment. THIS RECORD IS BRANCH 1 (charge retained by the ejected A-D fragment); branch 2 is record IMS8-EQ8.106b. So: the A-B and C-D bonds break, the A-D and B-C bonds form, the interior chain closes into a ring - exactly the definition the book gives on p. 214, 'the cleavage of two bonds to eject an interior fragment (\"elimination, re\")'. ARC COUNT (convention D): Book draws 0 arc(s) for this scheme - the page prints no curved arrows or fishhooks anywhere in 8.106 (the vertical A-B and C-D lines are plain bonds; the apparent point at the top of the A-B line is the serif of the bold letter A, checked at 6x). All four moves encoded here are curator-supplied to make the drawn products electron-balanced: each of the two breaking bonds contributes one electron to each of the two forming bonds, so no atom's radical population changes and the charge/odd electron stays on D, which is exactly what branch 1 shows. (The German-edition cover chart draws the same reaction, 'Eliminierung (re), Tabelle 8.4', with two arcs and with the charge on the ejected R-YR fragment, i.e. branch 1.) INSTANTIATION (convention F): the page prints no m/z and no intensity. This record uses A = CH3, B and C = chain CH2 groups, D = the methoxy oxygen carrying the charge and odd electron, and puts a second oxygen inside the interior chain so that BOTH branches of the 'or' have a localizable charge site: the precursor is the 1-ethoxy-3-methoxypropane molecular ion, CH3CH2-O-CH2CH2CH2-O(+.)-CH3 (C6H14O2, m/z 118.0983), which ejects tetrahydrofuran (72.0575) as the cyclized interior fragment and keeps the charge on the dimethyl ether radical cation (CH3)2O(+.) (m/z 46.0408). LOCALIZATION (convention B): the charge and odd electron are written explicitly on the methoxy oxygen ([O+:7] with two bonds = one unpaired electron in RDKit), the atom the book marks '+(.)'. The page's own closing paragraph supplies the MS context: 'such a wide range of internal energies (>15 eV) is deposited in molecular ions formed by 70-eV electron ionization'."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "70 eV EI", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 118.0983, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_46", "species_id": "dimethyl_ether_radical_cation", "step_id": "step_re_elimination_charge_on_AD", "observed_mz": 46.0408, "relative_intensity": null, "hydrogen_shift": 0, "isotope_offset": 0, "status": "inferred", "confidence": 0.4}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-28T00:00:00Z", "modified_at": "2026-07-28T00:00:00Z"}}
